US06169088A
4-(2-Chloro-6,7-dimethoxy-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester
To a solution of 4.62 g (17.8 mmol) of commercially available 2,4-dichloro-6,7-dimethoxyquinazoline in 50 ml of dimethylformamide were added 12.4 ml (89.1 mmol) of triethylamine and 3.65 g (19.6 mmol) of N-tert-butoxycarbonylpiperazine, followed by overnight stirring in an atmosphere of argon at room temperature. The reaction mixture was poured into water, and sodium chloride was added thereto. The precipitated crystals were collected by filtration, washed with water, and dried to give 7.15 g (98%) of the desired compound.

reactant | 2,4-dichloro-6,7-dimethoxyquinazoline | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | triethylamine | 89.1 mmol, 12.4 ml | C(C)N(CC)CC | C6H15N
reactant | N-tert-butoxycarbonylpiperazine | 19.6 mmol, 3.65 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(2-Chloro-6,7-dimethoxy-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester | 7.15 g, 98% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C19H25ClN4O4
